US05039682
N-cyclopropyl-3-bromo-4-fluoroaniline
To a flame dried flask containing 60 ml of anhydrous ethyl ether was added 5.63 g (46.5 mmoles) of cyclopropylbromide, and then the mixture was cooled to -78° C. under a nitrogen atmosphere. Then, 27.4 ml (46.5 mmoles) of 1.7M t-butyllithium was added slowly. The mixture was then warmed to -40° C. Into another flame dried flask was placed 2.95 g (15.5 mmoles) of 3-bromo-4-fluoroaniline and 50 ml of anhydrous tetrahydrofuran. This mixture was also cooled to -78° C. under nitrogen atmosphere. Then, 9.7 ml (15.5 mmoles) of 1.6M n-butyllithium was added to the second mixture which was stirred at -78° C. for 25 minutes followed by the addition of 1.39 g (15.5 mmoles) of cuprous cyanide. The mixture was then warmed to -40° C., stirred for 30 minutes at -40° C. and then cooled to -78° C. Then, the anilinocuprate was added via inverse addition by a cannula to the cyclopropyllithium/ether solution at -78° C. The reaction mixture was warmed to room temperature and maintained at room temperature overnight followed by heating to 35° C. in an oil bath for about 9 hours. The mixture was cooled to -78° C., oxygen was added for 5 minutes and then 100 ml of 1:1 concentrated ammonium hydroxide/saturated ammonium chloride was added. The mixture was warmed to room temperature, and the organic layer was washed three times with 1:1 ammonium hydroxide/ammonium chloride and twice with saturated brine. The resulting solution was dried over anhydrous sodium sulfate, suction filtered, concentrated in vacuo and column chromatographed on silica gel (20% ethyl acetate/hexanes, 1% triethylamine) to give the title compound as two components [1.03 g (28.9% yield) and 1.30 g (44.1%) yield].

reactant | cyclopropylbromide | 46.5 mmoles, 5.63 g | C1(CC1)Br | C3H5Br
reactant | t-butyllithium | 46.5 mmoles, 1.7M, 27.4 ml | C(C)(C)(C)[Li]
reactant | 3-bromo-4-fluoroaniline | 15.5 mmoles, 2.95 g | BrC=1C=C(N)C=CC1F | C6H5BrFN
reactant | n-butyllithium | 15.5 mmoles, 1.6M, 9.7 ml | C(CCC)[Li]
reactant | cyclopropyllithium ether | C1(CC1)[Li].CCOCC
reactant | oxygen | O=O | O2
reactant | ammonium hydroxide | 100 ml | [OH-].[NH4+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-cyclopropyl-3-bromo-4-fluoroaniline | 28.9% yield | C1(CC1)NC1=CC(=C(C=C1)F)Br | C9H9BrFN
